US04397864
In tetrahydrofuran, 2-(3,4-methylenedioxyphenyl)-2-methylpropionic acid was reduced with lithium aluminum hydride to give 2-(3,4-methylenedioxyphenyl)-2-methylpropyl alcohol.

reactant | 2-(3,4-methylenedioxyphenyl)-2-methylpropionic acid | C1OC=2C=C(C=CC2O1)C(C(=O)O)(C)C | C11H12O4
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(3,4-methylenedioxyphenyl)-2-methylpropyl alcohol | C1OC=2C=C(C=CC2O1)C(CO)(C)C | C11H14O3
